US04066457
30 Grams 2-chloro-5-nitrobenzoic acid was added in portions to 150 ml piperidine. The temperature of the reaction was allowed to rise during the addition. After the addition was complete, the reaction was heated at reflux temperature for two hours. The hot reaction mixture was poured into ice water, made acid by the addition of concentrated HCl until precipitation of the product was complete and filtered. The filter cake was recrystallized from ethanol to give 30.4 grams 5-nitro-2-piperidinobenzoic acid. m.p. = 201°-203° C. The nitro compound was reduced catalytically in ethanol with 5% palladium on carbon catalyst to give 5-amino-2-piperidinobenzoic acid. m.p. = 232°-235° C.

reactant | 2-chloro-5-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | Cl | ClH
reactant | piperidine | 150 ml | N1CCCCC1 | C5H11N
product | 5-nitro-2-piperidinobenzoic acid | 30.4 grams | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)N1CCCCC1 | C12H14N2O4
